US08012986B2
2-(2-Chloro-pyridin-4-yl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.2) (2.0 g, 6.1 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (1.06 g, 6.74 mmol) according to the general procedure IIb. Obtained as a light brown solid (0.94 g, 38%). MS (ISN) 405.2 [(M−H)−]; mp 148.5° C.

reactant | 2-chloro-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 6.1 mmol, 2.0 g | ClC1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H4ClF6N3
reactant | 2-chloro-pyridine-4-boronic acid | 6.74 mmol, 1.06 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-trifluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C(F)(F)F)C=1C=NC(=CC1)C(F)(F)F | C16H7ClF6N4
